US04563447
30.3 g (0.1 mol) of 4-chloromethyl-2-[1-(4-chlorophenyl)-2-methyl-prop-2-yl]-2-methyl-1,3-dioxolane, 23 g (0.2 mol) of 3-hydroxymethylpiperidine and 0.1 g of potassium iodide in 100 ml of ethanol are heated at 150° C. under pressure (2 bar) for 15 hours. For working up, the solvent is removed in vacuo, the residue is taken up in 100 ml of methylene chloride, the mixture is washed twice with 100 ml of water each time and dried over sodium sulphate and the solvent is removed again in vacuo. 38 g (100% of theory) of 2-[1-(4-chlorophenyl)-2-methyl-prop-2-yl]-4-[(3-hydroxymethylpiperidin-1-yl)-methyl]-2-methyl-1,3-dioxolane of refractive index n20 1.5226 are obtained.

reactant | 4-chloromethyl-2-[1-(4-chlorophenyl)-2-methyl-prop-2-yl]-2-methyl-1,3-dioxolane | 0.1 mol, 30.3 g | ClCC1OC(OC1)(C)C(CC1=CC=C(C=C1)Cl)(C)C | C15H20Cl2O2
reactant | 3-hydroxymethylpiperidine | 0.2 mol, 23 g | OCC1CNCCC1 | C6H13NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | potassium iodide | 0.1 g | [I-].[K+]
product | 2-[1-(4-chlorophenyl)-2-methyl-prop-2-yl]-4-[(3-hydroxymethylpiperidin-1-yl)-methyl]-2-methyl-1,3-dioxolane | 38 g, 100% | ClC1=CC=C(C=C1)CC(C)(C)C1(OCC(O1)CN1CC(CCC1)CO)C | C21H32ClNO3
